* C:\Users\bluemann\Desktop\files\lts\PUO\current_voltage_conventer.asc
V1 VCC 0 5
I2 0 PH_Iout {I}
R3 PH_Vout2 PH_Iout 1000k
R2 N001 PH_Vout2*K 10000k
R5 N001 0 18k
XU1 0 PH_Iout VCC 0 PH_Vout2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 PH_Vout2 N001 VCC 0 PH_Vout2*K level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.tran 0 1s 0 0.1s
.step param I 0.1m 0.7m 0.1m
.lib UniversalOpamps2.sub
.backanno
.end
